US20010027196A1
4-Furan-2-yl-5-nitro-6-phenethyloxy-pyrimidin-2-yl-amine
From trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester, phenethylalcohol and DBU in DME. ES-MS m/e (%): 327 (M+H+, 100).

reactant | trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | phenethylalcohol | C(CC1=CC=CC=C1)O | C8H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 4-Furan-2-yl-5-nitro-6-phenethyloxy-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1[N+](=O)[O-])OCCC1=CC=CC=C1)N | C16H14N4O4
